US04146631
A mixture of 5-chlorosalicyclic acid (7.7 g), benzyl chloride (10.35 ml), anhydrous potassium carbonate (6.2 g), and dry sulpholane (100 ml) was stirred and heated in an oil bath at 120° C. for 20 hours. The yellow solution was cooled and poured into a mixture of ice and water (300 ml) and the mixture was acidified to pH 1 by treatment with concentrated hydrochloric acid. The brown oil which separated was extracted with diethyl ether (400 ml), the ether extract was washed with aqueous sodium carbonate solution (2N; 150 ml), dried over magnesium sulphate, and evaporated, to give a white solid (16 g), m.p 45°-50° C., consisting mainly of benzyl 2-benzyloxy-5-chlorobenzoate. This material was heated at reflux with aqueous sodium hydroxide solution (2N; 100 ml) for 3 hours. The mixture was then treated with methanol (40 ml) and heated at reflux for 6 hours. The resulting solution was neutralised to pH 7 by treatment with hydrochloric acid (2N), then concentrated under reduced pressure, acidified to pH 5 by treatment with hydrochloric acid (2N) and cooled to 10° C. The separated solid was filtered off and washed with a mixture of ice and water and recrystallized from acetic acid (100 ml) (filtering off some insoluble material ) to give 2-benzyloxy-5-chlorobenzoic acid (5.23 g), m.p. 113°-115° C.

reactant | benzyl 2-benzyloxy-5-chlorobenzoate | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=C(C=C1)Cl | C21H17ClO3
reactant | sodium hydroxide | 2N, 100 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
product | 2-benzyloxy-5-chlorobenzoic acid | 5.23 g | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=C(C=C1)Cl | C14H11ClO3
